US09422331B2
To a rt solution of tert-butyl(S)-1-((2S,3S)-1-acetyl-2-methyl-4-oxo-2,3,4,5-tetrahydro-1H-benzo[b][1,4]diazepin-3-ylamino)-1-oxopropan-2-yl(methyl)carbamate (72 mg, 172 μmol) in DMF (430 μl) was added 1-(chloromethyl)-2-methoxynaphthalene (42.7 mg, 206 μmol), cesium carbonate (72.9 mg, 224 μmol), and sodium iodide (33.5 mg, 224 μmol). The reaction was stirred at rt for 16 h, then diluted with EtOAc, washed with H2O and sat. aq. NaCl, dried over Na2SO4, filtered, and concentrated. The crude material was purified by flash chromatography to provide tert-butyl(S)-1-((2S,3S)-1-acetyl-5-((2-methoxynaphthalen-1-yl)methyl)-2-methyl-4-oxo-2,3,4,5-tetrahydro-1H-benzo[b][1,4]diazepin-3-ylamino)-1-oxopropan-2-yl(methyl)carbamate (49.8 mg, 49%) as an off-white solid. MS m/z 611 (MNa)+.

reactant | tert-butyl(S)-1-((2S,3S)-1-acetyl-2-methyl-4-oxo-2,3,4,5-tetrahydro-1H-benzo[b][1,4]diazepin-3-ylamino)-1-oxopropan-2-yl(methyl)carbamate | 172 μmol, 72 mg | C(C)(=O)N1C2=C(NC([C@H]([C@@H]1C)NC([C@H](C)N(C(OC(C)(C)C)=O)C)=O)=O)C=CC=C2 | C21H30N4O5
reactant | 1-(chloromethyl)-2-methoxynaphthalene | 206 μmol, 42.7 mg | ClCC1=C(C=CC2=CC=CC=C12)OC | C12H11ClO
reactant | cesium carbonate | 224 μmol, 72.9 mg | C([O-])([O-])=O.[Cs+].[Cs+]
reactant | sodium iodide | 224 μmol, 33.5 mg | [I-].[Na+]
solvent | DMF | 430 μl | CN(C)C=O | C3H7NO
solvent | EtOAc | CCOC(=O)C | C4H8O2
product | tert-butyl(S)-1-((2S,3S)-1-acetyl-5-((2-methoxynaphthalen-1-yl)methyl)-2-methyl-4-oxo-2,3,4,5-tetrahydro-1H-benzo[b][1,4]diazepin-3-ylamino)-1-oxopropan-2-yl(methyl)carbamate | 49.8 mg, 49% | C(C)(=O)N1C2=C(N(C([C@H]([C@@H]1C)NC([C@H](C)N(C(OC(C)(C)C)=O)C)=O)=O)CC1=C(C=CC3=CC=CC=C13)OC)C=CC=C2 | C33H40N4O6
